US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-(2-hyroxyethylamino)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (500 mg), monoethanolamine (410 mg) and N-methylpyrrolidine (170 mg) were added to pyridine (1,500 mg), and the mixture was stirred at 90° C. for 71 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (1.5 ml) to the residue and then concentrating the mixture under reduced pressure was conducted 3 times repeatedly. The resultant residue was subjected to column chromatography (silica gel: 15 g, eluent; chloroform:methanol=50:1→10:1). Ethanol (0.5 ml) was added to a concentrate of a fraction containing a main product, and the mixture was stirred at room temperature. Deposits formed were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (62 mg) as a brown powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 500 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O)F)F | C17H10F4N2O3
reactant | monoethanolamine | 410 mg | C(O)CN | C2H7NO
reactant | N-methylpyrrolidine | 170 mg | CN1CCCC1 | C5H11N
solvent | pyridine | 1,500 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-7-(2-hyroxyethylamino)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 62 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)NCCO)F)=O)C(=O)O)F)F | C19H16F3N3O4
